datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1C[C:20](=[O:21])C1.CC[O:82][C:71]([C-:10]([C:61](=[O:62])[O:112]CC)[C:91]1=[CH:92][CH:93]=[C:94]([N+:95](=[O:96])[O-:97])[CH:103]=[CH:102]1)=[O:72]>>CC[O:82][C:71]([C:10]([C:20]1([O-:21])CCC1)([C:61](=[O:62])[O:112]CC)[C:91]1=[CH:92][CH:93]=[C:94]([N+:95](=[O:96])[O-:97])[CH:103]=[CH:102]1)=[O:72] 10=20;20,21=21"
"CC1=CC(C)=C(C(C)C[CH+:20][C:31]2=[C:32](C)[CH:33]=[C:34](C)[CH:35]=[C:36]2C)C(C)=C1.[H:10][CH:11]([CH:62]=[CH2:63])[C:72]1=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]1>>CC1=CC(C)=C(C(C)C[CH:20]([H:10])[C:31]2=[C:32](C)[CH:33]=[C:34](C)[CH:35]=[C:36]2C)C(C)=C1.[CH+:11]([CH:62]=[CH2:63])[C:72]1=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]1 10,11=10,20"
"C[C:61](/[CH:10]=[C:11](/C1=CC=CC=C1)[O-:12])=[O:62].N#C[C:21]1=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]2[C:23]([N+:24]([O-])=[O:25])=[CH:22]1>>C[C:61]([CH:10]([C:11](C1=CC=CC=C1)=[O:12])[CH:20]1[C:21](C#N)=[CH:22][C:23](=[N+:24]([O-])[O-:25])[C:34]2=[N:35]O[N+:42]([O-])=[C:41]12)=[O:62] 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"C1CC[N+:21](=[CH:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CC1.[CH:10]1([Li:11])[CH:61]=[CH:62][C:72]2=[C:71]1[CH:73]=[CH:74][CH:75]=[CH:76]2>>C1CC[N:21]([CH:20]([CH:10]2[CH:61]=[CH:62][C:72]3=[C:71]2[CH:73]=[CH:74][CH:75]=[CH:76]3)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CC1.[Li+:11] 10,11=10,20;20,21=21"
"CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[N:51](C)C(=S)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1.[CH2:10]=[CH:11][CH:62]=[CH2:63]>>CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH2:10][CH+:11][CH:62]=[CH2:63])[C:21]2=[C:22]([O-:23])[N:51](C)C(=S)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1 10,11=10,20;20,21=21,22;22,23=23"
"CC12C3(C)C4(C)C5(C)C1(C)[Mo-3:11]2345(C#[O+])(C#[O+])(C#[O+])[H:10].CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[C:21]2[C:22](=[O:23])C3=C(C=CC=C3)[C:32]2=[O:33])[CH:36]=[CH:35]1>>CC12C3(C)C4(C)C5(C)C1(C)[Mo-2:11]2345(C#[O+])(C#[O+])C#[O+].CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:21]2=[C:22]([O-:23])C3=C(C=CC=C3)[C:32]2=[O:33])[CH:36]=[CH:35]1 10,11=10,20;20,21=21,22;22,23=23"
"CC[Si:63](CC)(CC)[CH2:62][CH2:11][H:10].C[N+:21](C)=[CH:20][C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1>>CC[Si:63](CC)(CC)[CH2:62][CH2+:11].C[N:21](C)[CH:20]([H:10])[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1 10,11=10,20;20,21=21"
"C[C:22]1=[N+:23](C)C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[C:32](C)[N:33](C)[C:42]2=[C:41]1C=CC=C2.C[N:12]1[CH:11]=[N:10][C:61]2=[C:62]1C=CC=C2>>C[N+:12]1=[CH:11][N:10]([CH:20]([C:21]2=[C:22](C)[N:23](C)C3=C2C=CC=C3)[C:31]2=[C:32](C)[N:33](C)[C:42]3=[C:41]2C=CC=C3)[C:61]2=[C:62]1C=CC=C2 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C(/[CH:20]=[CH:21]/[C:22]#[N:23])C=C1.[CH:10]1=[CH:11][CH:12]=[C:13]([B-:64]([F:65])([F:75])[F:85])[O:14]1>>C1=CC=C([CH:20]([CH:10]2[CH:11]=[CH:12][C:13]([B-:64]([F:65])([F:75])[F:85])=[O+:14]2)[CH:21]=[C:22]=[N-:23])C=C1 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"CO[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[CH:32]=[C:33](OC)[C:24]1=[O:25].[CH:10]1=[CH:11][CH:12]=[CH:13][S:14]1>>CO[C:23]1=[C:24]([O-:25])[C:33](OC)=[CH:32][C:21]([CH:20]([CH:10]2[CH:11]=[CH:12][CH:13]=[S+:14]2)[C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)=[CH:22]1 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23,24;24,25=25"
"C1C[N+]2(C[C:21]3=[CH:20][C:31]4=[C:32](O[C:22]3=[O:23])[CH:33]=[CH:34][CH:35]=[CH:36]4)CCN1CC2.C[S+:61](C)[CH-:10][C:71]1=[CH:72][CH:73]=[C:74]([N+:75](=[O:76])[O-:96])[CH:83]=[CH:82]1>>C[S+:61](C)[CH:10]([CH:20]1[C:21](C[N+]23CCN(CC2)CC3)=[C:22]([O-:23])O[C:32]2=[C:31]1[CH:36]=[CH:35][CH:34]=[CH:33]2)[C:71]1=[CH:72][CH:73]=[C:74]([N+:75](=[O:76])[O-:96])[CH:83]=[CH:82]1 10=20;20,21=21,22;22,23=23"
"C1C[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CCO1.[CH:10](=[N+:11]([O-:12])[O-:62])[C:71]1=[CH:72][CH:73]=[CH:74][CH:82]=[CH:83]1>>C1C[N:23]([CH:22]=[CH:21][CH:20]([CH:10]([N+:11](=[O:12])[O-:62])[C:71]2=[CH:72][CH:73]=[CH:74][CH:82]=[CH:83]2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CCO1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:12][C:11](=[CH:10]C)[O:62]CC.CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](/C[N+]23CCN(CC2)CC3)[C:22](C)=[O:23])[CH:36]=[CH:35]1>>CC[O+:12]=[C:11]([CH:10](C)[CH:20]([C:21](C[N+]12CCN(CC1)CC2)=[C:22](C)[O-:23])[C:31]1=[CH:32][CH:33]=[C:34](OC)[CH:35]=[CH:36]1)[O:62]CC 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20]/[CH:41]=[CH:42]/C2=CC=C([N+](=O)[O-])C=C2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].FC(F)(F)[C:64]1=[CH:63][CH:62]=[C:61]([S-:10])[CH:72]=[CH:73]1>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([S:10][C:61]2=[CH:62][CH:63]=[C:64](C(F)(F)F)[CH:73]=[CH:72]2)/[CH:41]=[CH:42]/C2=CC=C([N+](=O)[O-])C=C2)=[CH:22]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
